US06627630B1
Production of 6-[6-[4-(Diphenylmethoxy)piperidino]hexylthio]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine Fumarate
1.0 g of 6-(6-bromohexylthio)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine and 810 mg of 4-(diphenylmethoxy)piperidine were dissolved in 10 ml of N,N-dimethylformamide; 500 mg of potassium carbonate was added, followed by stirring at room temperature for 24 hours. Ice water was added, followed by extraction with ethyl acetate; the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol (10:1). The desired fraction was collected and concentrated; the residue was dissolved in 10 ml of ethanol; 290 mg of fumaric acid was added, followed by concentration. Ethyl ether was added to the residue; the crystal precipitated was collected by filtration, washed with ethyl ether and dried to yield 1.43 g of the title compound.

reactant | 6-(6-bromohexylthio)-7-methyl[1,2,4]triazolo[1,5-b]pyridazine | 1.0 g | BrCCCCCCSC=1C(=CC=2N(N1)N=CN2)C | C12H17BrN4S
reactant | 4-(diphenylmethoxy)piperidine | 810 mg | C1(=CC=CC=C1)C(OC1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 6-[6-[4-(Diphenylmethoxy)piperidino]hexylthio]-7-methyl[1,2,4]triazolo[1,5-b]pyridazine Fumarate | 1.43 g | C(\C=C\C(=O)O)(=O)O.C1(=CC=CC=C1)C(OC1CCN(CC1)CCCCCCSC=1C(=CC=2N(N1)N=CN2)C)C2=CC=CC=C2 | InChI=1S/C30H37N5OS.C4H4O4/c1-24-22-28-31-23-32-35(28)33-30(24)37-21-11-3-2-10-18-34-19-16-27(17-20-34)36-29(25-12-6-4-7-13-25)26-14-8-5-9-15-26;5-3(6)1-2-4(7)8/h4-9,12-15,22-23,27,29H,2-3,10-11,16-21H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
